US06555577B1
The colourless gum (E)-3-(3′,5′-dibromo-biphenyl-4-yl)-but-2-en-1-ol was prepared by DIBAL-H reduction of (E)-ethyl 3-(3′,5′-dibromo-biphenyl-4-yl)-but-2-enoate as described for example 52b, with the purification of the product being carried out by preparative HPLC.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (E)-ethyl 3-(3′,5′-dibromo-biphenyl-4-yl)-but-2-enoate | BrC=1C=C(C=C(C1)Br)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C18H16Br2O2
product | (E)-3-(3′,5′-dibromo-biphenyl-4-yl)-but-2-en-1-ol | BrC=1C=C(C=C(C1)Br)C1=CC=C(C=C1)/C(=C/CO)/C | C16H14Br2O
